US07199147B2
A solution of dibenzylamine (0.448 g, 2.27 mmol) in dichloromethane (3 ml), 1-hydroxybenztriazole (0.337 g, 2.49 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (0.477 g, 2.49 mmol) were added to a solution of 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid (0.502 g, 2.06 mmol) in dichloromethane (7 ml) and stirred overnight. The resulting solution was diluted with ethyl acetate and washed with a 5%-aqueous potassium hydrogensulfate solution (twice), a saturated aqueous sodium hydrogencarbonate solution (twice) and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel chromatography (eluent: chloroform/ethyl acetate=20/1) to obtain tert-butyl 3-[(dibenzylamino)carbonyl]cyclohexanecarbamate (0.796 g, 91%).

reactant | dibenzylamine | 2.27 mmol, 0.448 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 1-hydroxybenztriazole | 2.49 mmol, 0.337 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 2.49 mmol, 0.477 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | 2.06 mmol, 0.502 g | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[(dibenzylamino)carbonyl]cyclohexanecarbamate | 0.796 g, 91% | C(C1=CC=CC=C1)N(C(=O)C1CC(CCC1)NC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C26H34N2O3
